US06353006B1
2-Butylamine was converted to N-(2-hydroxyethyl)-N-(2-butyl)amine according to Method B5a. The amine was reacted with SOCl2 according to Method B7a to give N-(2-chloroethyl)-N-(2-butyl)ammonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C1a to give to give 2-(2-methyl-4-nitrophenylimino)-3-(2-butyl)-1,3-thiazolidine.

reactant | 2-Butylamine | CC(CC)N | C4H11N
reactant | N-(2-hydroxyethyl)-N-(2-butyl)amine | OCCNC(C)CC | C6H15NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | N-(2-chloroethyl)-N-(2-butyl)ammonium chloride | [Cl-].ClCC[NH2+]C(C)CC | InChI=1S/C6H14ClN.ClH/c1-3-6(2)8-5-4-7;/h6,8H,3-5H2,1-2H3;1H
